US04898874
3-(4-Chlorobenzoyl)-4-nitrobenzene acetic acid
To a solution of 0.0175 mole of diethylsodiomalonate in 250 ml of diethyl malonate under nitrogen atmosphere at 80° C. was added 20.7 g (0.07 mole) of 4',5-dichloro-2-nitrobenzophenone. The mixture was heated at 90° C. for 2 hr, then poured into water and neutralized with glacial acetic acid. The mixture was extracted with diethyl ether and then washed and dried over sodium sulfate; extracts were concentrated and excess diethyl malonate removed by distillation. The residue was chromatographed eluting with 50-75% isopropyl ether in hexane and the appropriate fraction collected. This material was hydrolyzed by heating at reflux in a mixture of 150 ml of dioxane and 80 ml of 6N hydrochloric acid for 6 hr. The reaction mixture was diluted with water and extracted with diethyl ether. The ether extracts were washed with dilute sodium hydroxide and the basic washings were combined, acidified and extracted with diethyl ether-isopropyl ether to give after recrystallization from 80% aqueous methanol, 6.2 g of title compound as tan crystals, m.p. 182.0°-183.0° C.

reactant | diethylsodiomalonate | 0.0175 mole | C(C)OC(C(C(=O)OCC)[Na])=O
reactant | 4',5-dichloro-2-nitrobenzophenone | 0.07 mole, 20.7 g | ClC1=CC=C(C=C1)C(C1=C(C=CC(=C1)Cl)[N+](=O)[O-])=O | C13H7Cl2NO3
reactant | water | O | H2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | diethyl malonate | 250 ml | C(CC(=O)OCC)(=O)OCC | C7H12O4
product | 3-(4-Chlorobenzoyl)-4-nitrobenzene acetic acid | ClC1=CC=C(C(=O)C=2C=C(C=CC2[N+](=O)[O-])CC(=O)O)C=C1 | C15H10ClNO5
